US05756528
Step G: Preparation of N-t-Butoxycarbonyl-4(R)-t-butyldimethylsilyloxy-2(S)-aminomethylpyrrolidine
A solution of N-t-butoxycarbonyl-4(R)-t-butyldimethylsilyloxy-2(S)-azidomethylpyrrolidine (9.06 g, 25.39 mmol) in EtOAc (120 ml) was purged with argon and 10% palladium on carbon (1.05 g) added. The flask was evacuated and stirred under an atmosphere of hydrogen (49 psi) for 16 hrs. The hydrogen was replaced by argon, the catalyst removed by filtration and the solvent evaporated in vacuo. The residue was chromatographed (SiO2, 2.5 to 5% saturated NH4OH in acetonitrile, gradient elution), to afford the title compound as an oil.

reactant | N-t-butoxycarbonyl-4(R)-t-butyldimethylsilyloxy-2(S)-azidomethylpyrrolidine | 25.39 mmol, 9.06 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CN=[N+]=[N-] | C16H32N4O3Si
solvent | EtOAc | 120 ml | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 1.05 g | [Pd] | Pd
product | N-t-Butoxycarbonyl-4(R)-t-butyldimethylsilyloxy-2(S)-aminomethylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CN | C16H34N2O3Si
